US05476649
76.3 gm of 16-hexadecanolide and 0.29 gm of 28% sodium methoxide solution were dissolved into 250 gm of methanol, and the solution was heated at 60° C. for 60 hours while stirring. The reaction mixture was cooled to deposit crystals. The crystals were collected by filtration, washed, and dried to obtain 77.5 gm of methyl 16-hydroxyhexadecanoate (yield: 90.2%).

reactant | 16-hexadecanolide | 76.3 gm | C1(CCCCCCCCCCCCCCCO1)=O | C16H30O2
reactant | methanol | 250 gm | CO | CH4O
catalyst | sodium methoxide | 0.29 gm | C[O-].[Na+]
product | methyl 16-hydroxyhexadecanoate | 77.5 gm, yield: 90.2% | OCCCCCCCCCCCCCCCC(=O)OC | C17H34O3
